US04598079
3-(1-methylindol-3-yl)-4-[3-(2-ethoxyphenyl)-2-hydroxyprop-1-yl]-piperazin-2-one
11.5 g (0.05 mol) of 3-(1-methylindol-3-yl)-piperazin-2-one, prepared in accordance with Example 34, are dissolved in 100 ml of isoamyl alcohol, 9.7 g (0.05 mol) of 3-(2-ethoxyphenoxy)-1,2-epoxypropane are added and the mixture is stirred for 5 hours at 120° C. The reaction mixture is evaporated in vacuo, the residue is dissolved in ethyl acetate, and the hydrochloride is precipitated by adding hydrochloric acid in ether. The product is filtered off with suction and dried.

reactant | 3-(1-methylindol-3-yl)-piperazin-2-one | 0.05 mol, 11.5 g | CN1C=C(C2=CC=CC=C12)C1C(NCCN1)=O | C13H15N3O
reactant | 3-(2-ethoxyphenoxy)-1,2-epoxypropane | 0.05 mol, 9.7 g | C(C)OC1=C(OCC2CO2)C=CC=C1 | C11H14O3
solvent | isoamyl alcohol | 100 ml | C(CC(C)C)O | C5H12O
product | 3-(1-methylindol-3-yl)-4-[3-(2-ethoxyphenyl)-2-hydroxyprop-1-yl]-piperazin-2-one | CN1C=C(C2=CC=CC=C12)C1C(NCCN1CC(CC1=C(C=CC=C1)OCC)O)=O | C24H29N3O3
